US07064123B1
A solution of 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-allyl)-malonic acid diethyl ester (257 mg, 0.637 mmol) in EtOH (15 ml) was hydrogenated over Pd/C at 55 Psi for 7.5 hrs. The catalyst filtered off over a pad of Celite and the filtrate evaporated under vacuum to give 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-propyl)-malonic acid diethyl ester as a light yellow oil (260 mg); 1H NMR (CDCl3) 7.4–7.1 (m, 5H), 4.20 (q, J=7.1 Hz, 4H), 3.7–3.4 (m, 8H), 3.0 (s, 2H), 2.6 (t, J=7.6 Hz, 2H), 2.2 (m, 2H), 2.55 (m, 2H), 1.20 (t, J=7.1 Hz, 6H). MS: 406 (MH+).

reactant | 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-allyl)-malonic acid diethyl ester | 0.637 mmol, 257 mg | C(C)OC(C(C(=O)OCC)(CC=CC1=CC=CC=C1)CC(=O)N1CCOCC1)=O | C22H29NO6
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
solvent | EtOH | 15 ml | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-(2-morpholin-4-yl-2-oxo-ethyl)-2-(3-phenyl-propyl)-malonic acid diethyl ester | 260 mg | C(C)OC(C(C(=O)OCC)(CCCC1=CC=CC=C1)CC(=O)N1CCOCC1)=O | C22H31NO6
